US04954508
4,7-dihydro-1,3,6-trimethyl-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid methyl ester.
Methyl-2-(2-nitrobenzyliden)acetoacetate (10 g; 0.040 mol) is added to 1,3-dimethyl-5-pyrazolamine (4.89 g; 0.044 mol) in ethanol (40 ml) The mixture is refluxed for about 5 hours, then the solvent is evaporated under reduced pressure and the residue is taken up in ethyl ether and recovered by filtration. M.p. 216°-220° C.

reactant | Methyl-2-(2-nitrobenzyliden)acetoacetate | 0.040 mol, 10 g | COC(C(C(=O)C)=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C12H11NO5
reactant | 1,3-dimethyl-5-pyrazolamine | 0.044 mol, 4.89 g | CN1N=C(C=C1N)C | C5H9N3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4,7-dihydro-1,3,6-trimethyl-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridin-5-carboxylic acid methyl ester | COC(=O)C=1C(C2=C(NC1C)N(N=C2C)C)C2=C(C=CC=C2)[N+](=O)[O-] | C17H18N4O4
